US04080330
1.0 G of 3-phenylindoline was dissolved in 10 ml of acetic anhydride at room temperature. After 10 minutes, the reaction mixture was poured into 100 ml of water, slightly basified with aqueous sodium hydroxide and extracted with methylene chloride. After removal of the methylenechloride, the residue was recrystallized from cyclohexane to give 1.15 g of the desired N-acetyl-3-phenylindoline which was found to have a 106°-7° C.

reactant | 3-phenylindoline | C1(=CC=CC=C1)C1CNC2=CC=CC=C12 | C14H13N
reactant | water | 100 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-acetyl-3-phenylindoline | 1.15 g | C(C)(=O)N1CC(C2=CC=CC=C12)C1=CC=CC=C1 | C16H15NO
